US04319914
Preparation of Ethyl N-(5-Ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate
2-Amino-5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazole (0.10 mol) dissolved in pyridine (125 ml.) is charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and addition funnel. Ethyl chloroformate (0.12 mol) is then added dropwise to the reaction mixture with stirring and cooling. After the addition is completed the reaction mixture is allowed to warm to room temperature and stirring is continued for a period of about 1 hour. After this time the reaction mixture is poured into ice water to form a precipitate. The precipitate is recovered by filtration, is dried and recrystallized to yield the desired product ethyl N-(5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate.

reactant | 2-Amino-5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazole | 0.10 mol | NC=1SC2=C(N1)CC(CC2Cl)CC | C9H13ClN2S
reactant | Ethyl chloroformate | 0.12 mol | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | ethyl N-(5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate | C(C)C1CC(C2=C(N=C(S2)NC(OCC)=O)C1)Cl | C12H17ClN2O2S
